US06103910
b) (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-methoxy-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 370 mg (0.66 mmol) (R)-1-[[3-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-methoxy-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 4 ml trifluoroacetic acid was stirred for 3 h at room temperature. The solvent was removed in vacuo and the residue suspended in 10 ml ether. The resulting suspension was stirred overnight. Filtration and drying gave 287 mg (97%) of the title compound as a white powder. MS m/e (%): 473 (M+Na+, 45), 468 (M+NH4+, 30), 451 (M+H+, 100).

reactant | (R)-1-[[3-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-methoxy-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.66 mmol, 370 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=CC(=CC(=C1)OC)OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C29H42N2O9
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-methoxy-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid | 287 mg, 97% | C(=O)(O)[C@@H]1N(CCC1)C(COC=1C=C(OCC(=O)N2[C@H](CCC2)C(=O)O)C=C(C1)OC)=O | C21H26N2O9
